US05189046
A solution of 108 g (0.518 mol) of 2-[N-(tert-butoxycarbonyl)aminomethyl]pyridine in 500 mL of ethanol and 50 mL of glacial acetic acid was hydrogenated over 5 grams of PtO2 at 55 psi for 36 hours employing a Parr apparatus. The mixture was cautiously filtered through Celite® and solvent was removed at reduced pressure. The crude material was dissolved in ethyl acetate, washed with 2N aqueous NaOH, water, brine, and dried over MgSO4. Solvent was removed at reduced pressure and the resulting solid was recrystallized from ethyl acetate/hexane to provide 89.5 grams (80%) of 2-[N-(tert-butoxycarbonyl)aminomethyl]piperidine as a white solid. Mp. 93° C.

reactant | 2-[N-(tert-butoxycarbonyl)aminomethyl]pyridine | 0.518 mol, 108 g | C(C)(C)(C)OC(=O)NCC1=NC=CC=C1 | C11H16N2O2
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | PtO2 | 5 grams | O=[Pt]=O
product | 2-[N-(tert-butoxycarbonyl)aminomethyl]piperidine | 89.5 grams, 80% | C(C)(C)(C)OC(=O)NCC1NCCCC1 | C11H22N2O2
